US08476457B2
To a solution of 4-iodo-1-isopropyl-1H-indazole-6-carboxylic acid methyl ester (1.13 g, 3.28 mmol) in THF (30 mL) was added Pd(PPh3)4 (0.2 g, 0.164 mmol), followed by 5-methyl-pyridinyl zinc bromide ((19.7 mL of 0.5M solution in THF, 9.86 mmol). The reaction mixture was stirred overnight at room temperature, then quenched by addition of saturated aqueous NH4Cl solution. The mixture was partitioned between water and ethyl acetate, and the organic layer was separated, dried over MgSO4, filtered and concentrated under reduced pressure. Purification by column chromatography gave 0.5 g (50%) of 1-isopropyl-4-(5-methyl-pyridin-2-yl)-1H-indazole-6-carboxylic acid methyl ester.

reactant | 4-iodo-1-isopropyl-1H-indazole-6-carboxylic acid methyl ester | 3.28 mmol, 1.13 g | COC(=O)C1=CC(=C2C=NN(C2=C1)C(C)C)I | C12H13IN2O2
reactant | 5-methyl-pyridinyl zinc bromide | [Br-].CC=1C=CC(=NC1)[Zn+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.164 mmol, 0.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-isopropyl-4-(5-methyl-pyridin-2-yl)-1H-indazole-6-carboxylic acid methyl ester | 0.5 g, 50% | COC(=O)C1=CC(=C2C=NN(C2=C1)C(C)C)C1=NC=C(C=C1)C | C18H19N3O2
